US04424359
(e) Preparation of 3-methyl-6-bromomethyl-2,2'-bipyridine
0.9 g (4.5 mmols) of 3-methyl-6-hydroxymethyl-2,2'-bipyridine are boiled under reflux for 6 hours, together with 5 ml of 62% hydrobromic acid. After cooling, 10 ml of water and 20 ml of diethyl ether are added. The water phase is rendered alkaline with potassium carbonate, separated from the ether phase and washed with a further 10 ml of diethyl ether. The combined ether phases are dried over sodium sulfate and concentrated to dryness in vacuo (maximum bath temperature: 30° C.). 1.16 g (98% of theory) of 3-methyl-6-bromomethyl-2,2'-bipyridine remains as an oily product which decomposes at room temperature, giving a red colouration, and crystallises at 0° C. The 3-methyl-6-bromomethyl-2,2'-bipyridine is immediately used further.

reactant | 3-methyl-6-hydroxymethyl-2,2'-bipyridine | 4.5 mmols, 0.9 g | CC=1C(=NC(=CC1)CO)C1=NC=CC=C1 | C12H12N2O
reactant | hydrobromic acid | 5 ml | Br | BrH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | water | 10 ml | O | H2O
product | 3-methyl-6-bromomethyl-2,2'-bipyridine | CC=1C(=NC(=CC1)CBr)C1=NC=CC=C1 | C12H11BrN2
